// vcotune5 N2_4
simulator lang=spectre
include "/home/lib/tsmc_12nm_installed/pdk/models/toplevel.scs" section=top_tt
include "vco_x_tuned.scs"
Vvdd (VDD 0) vsource dc=0.8
Vvss (VSS 0) vsource dc=0
Vctrl (VCTRL 0) vsource dc=0.4
Xvco (VDD VSS VCTRL OUTP OUTN) vco_x
vctran tran stop=12n maxstep=1p errpreset=liberal method=gear2only
save OUTP
